US06911543B2
Ethyl glycolate (35.5 mL, 375 mmol) is slowly added (over 20 minutes) to a slurry of NaOH (15.8 g, 394 mmol) in 1,2-dimethoxyethane (400 mL) under N2 with the flask being in an ice bath. The mixture is allowed to warm to rt, is stirred for 30 min, and ethyl 2-chloronicotinate (27.84 g, 150 mmol) in 1,2-dimethoxyethane (50 mL) is added over 10 minutes. The reaction is warmed to 65° C. for 15 h in an oil bath. The mixture is concentrated to dryness, the residue is dissolved in H2O (500 mL), washed with hexane (500 mL), acidified to pH 3 with 5% HCl, and extracted with CHCl3 (4×400 mL). The combined organic layer is dried over MgSO4, filtered, and concentrated to a yellow solid. The solid is suspended in ether (200 mL) and heated on a steam bath until concentrated to a volume of 40 mL. The material is allowed to crystallize overnight, then filtered to afford ethyl 3-hydroxyfuro[2,3-b]pyridine-2-carboxylate (C40) as a pale orange solid (41% yield). Additional material is obtained by concentrating the filtrate. Recrystallization in ether a second time afforded (C40) as a pale yellow solid (7.3% yield). MS (EI) for C10H9NO4, m/z: 207 (M)+.

reactant | Ethyl glycolate | 375 mmol, 35.5 mL | C(CO)(=O)OCC | C4H8O3
reactant | NaOH | 394 mmol, 15.8 g | [OH-].[Na+]
reactant | ethyl 2-chloronicotinate | 150 mmol, 27.84 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
solvent | 1,2-dimethoxyethane | 400 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
product | ethyl 3-hydroxyfuro[2,3-b]pyridine-2-carboxylate | 41% yield | OC1=C(OC2=NC=CC=C21)C(=O)OCC | C10H9NO4
